US08252826B2
1.4 2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethanol
A solution of [2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-cyclohexyl-acetic acid ethyl ester (500 mg, 1.2 mmol) in THF (25 ml) was added within 20 min to an ice cold suspension of lithium aluminium hydride (66 mg, 1.7 mmol) in THF (25 ml). The solution was stirred at 0° C. for 45 min, filtered over Speedex and the filtrate was brought to dryness under reduced pressure. The residue was taken up in ice water/brine 1/1 and iPrOAc. The layers were separated and the aqueous layer was extracted one more time with iPrOAc. The combined extracts were dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give the title compound (336 mg, 0.97 mmol; 79%) as yellow oil which was used in the next step without further purification. MS: m/e=345.2 [M+H+].

reactant | [2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-cyclohexyl-acetic acid ethyl ester | 1.2 mmol, 500 mg | C(C)OC(C(C1CCCCC1)C=1N(N=C2C1CCC2)C2=CC=C(C=C2)Cl)=O | C22H27ClN2O2
reactant | lithium aluminium hydride | 1.7 mmol, 66 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2-cyclohexyl-ethanol | 0.97 mmol, 336 mg, 79% | ClC1=CC=C(C=C1)N1N=C2C(=C1C(CO)C1CCCCC1)CCC2 | C20H25ClN2O
